US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridazin-3-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A mixture of 3-(azetidin-1-ylcarbonyl)-6-chloropyridazine (45 mg, 0.23 mmol), 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (70 mg, 0.23 mmol) and potassium carbonate (63 mg, 0.46 mmol) in acetonitrile (3 mL) was stirred in a Smith Creator microwave at 130° C. for 1 hour. The solid was filtered off and the solvent was removed in vacuo. The residue was purified by reverse phase preparative HPLC, eluting with 5-95% acetonitrile in water (+0.2% TFA), followed by passage through a Silicycle Si-Carbonate cartridge, eluting with methanol, to give the desired product as a colourless solid (97 mg). 1H NMR δ (CDCl3): 1.34 (3H, d), 1.66 (3H, s), 2.33-2.41 (2H, m), 3.40 (3H, s), 3.48-3.52 (1H, m), 3.56-3.60 (1H, m), 3.79 (3H, s), 4.27 (2H, d), 4.58-4.62 (1H, m), 4.76 (2H, t), 6.79 (1H, d), 6.97 (1H, t), 7.25-7.29 (3H, m), 7.35-7.36 (1H, m), 8.26-8.28 (1H, m), 8.49 (1H, s); m/z 467 (M+H)+.

reactant | 3-(azetidin-1-ylcarbonyl)-6-chloropyridazine | 0.23 mmol, 45 mg | N1(CCC1)C(=O)C=1N=NC(=CC1)Cl | C8H8ClN3O
reactant | 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.23 mmol, 70 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](COC)C | C15H19N3O4
reactant | potassium carbonate | 0.46 mmol, 63 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridazin-3-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 97 mg | N1(CCC1)C(=O)C1=CC=C(N=N1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](COC)C | C23H26N6O5
